US06248739B1
4-Iodoaniline (F-0) is reductively alkylated with [(1-ethoxycyclopropyl)oxy]trimethylsilane and sodium cyanoborohydride to give the N-cyclopropyl aniline (F-1). Treatment with diethyl ethoxymethylenemalonate in pyridine affords the enamine (F-2) which is cyclized with polyphosphoric acid to the quinoline (F-3). Treatment with p-chlorobenzylamine at elevated temperature converts the ester to the amide (F-4). Palladium catalyzed coupling of the iodide with propargyl alcohol affords F-5. Reaction with platinum and hydrogen gas affords the saturated propyl alcohol (F-6).

reactant | 4-Iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-cyclopropyl aniline | C1(CC1)NC1=CC=CC=C1 | C9H11N
